US09145438B2
Step 6: (2R,3R,4S,5R)-2-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((4-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)butyl)(isopropyl)amino)methyl)tetrahydrofuran-3,4-diol
7-((3aR,4R,6R,6aR)-6-(((4-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)butyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (120 mg, 0.16 mmol) was dissolved in a mixture of trifluoroacetic acid (5.0 mL) and water (0.5 mL) which had been precooled at 0° C. in an ice bath. The solution was stirred at 0° C. for 30 minutes, and then warmed to room temperature. After 4.5 h at room temperature, the reaction was found to be complete by HPLC and the now pink reaction mixture was concentrated. The residue was taken up in 10 mL MeOH and concentrated. This procedure was repeated twice and the residue placed on high vac for 1 h. The material was taken up in 6 mL MeOH and was treated with 100 mg K2CO3 and five drops of water. The mixture was stirred for 30 minutes during which time the mixture was found to be basic. The mixture was filtered through a fine frit, the solids were washed with 10 mL MeOH and the filtrate was concentrated to yield a nearly colorless solid. The crude material was purified by flash chromatography (20 g silica gel; 8% 7N NH3 in CH3OH/CH2Cl2) to yield the title compound (60 mg, 68%) as a colorless glass: MS (ESI+) for C29H41N7O3 m/z 536.5 (M+H)+; MS (ESI−) for C27H41N7O3 m/z 534.5 (M−H)−; HPLC purity>95% (ret. time, 2.53 min); 1H NMR (400 MHz, d4-MeOH) δ 8.07 (s, 1H), 7.48 (br. s., 1H), 7.38 (d, J=8.50 Hz, 1H), 7.27 (dd, J=8.50, 1.87 Hz, 1H), 7.22 (d, J=3.73 Hz, 1H), 6.61 (d, J=3.73 Hz, 1H), 6.11 (d, J=4.77 Hz, 1H), 4.43 (t, J=5.08 Hz, 1H), 4.14 (t, J=5.49 Hz, 1H), 4.04 (m, 1H), 3.00 (m, 1H), 2.83 (m, 3H), 2.67 (dd, J=14.10, 6.84 Hz, 1H), 2.53 (m, 2H), 1.80 (m, 2H), 1.52 (m, 2H), 1.36 (s, 9H), 1.01 (d, J=6.63 Hz, 3H), 0.97 (d, J=6.63 Hz, 3H).

reactant | 7-((3aR,4R,6R,6aR)-6-(((4-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)butyl)(isopropyl)amino)methyl)-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.16 mmol, 120 mg | C(C)(C)(C)C1=CC2=C(NC(=N2)CCCCN(C(C)C)C[C@H]2O[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C=C1 | C41H55N7O5
solvent | trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | water | 0.5 mL | O | H2O
product | (2R,3R,4S,5R)-2-(4-amino-7H-pyrrolo[2,3-d]pyrimidin-7-yl)-5-(((4-(5-(tert-butyl)-1H-benzo[d]imidazol-2-yl)butyl)(isopropyl)amino)methyl)tetrahydrofuran-3,4-diol | 60 mg, 68% | NC=1C2=C(N=CN1)N(C=C2)[C@@H]2O[C@@H]([C@H]([C@H]2O)O)CN(C(C)C)CCCCC2=NC1=C(N2)C=CC(=C1)C(C)(C)C | C29H41N7O3
